US06372759B1
A) N2-(4-t-Butylbenzoyl)-4-methoxycarbonyl-1,2-benzenediamine
To a stirring solution of 4-methoxycarbonyl-1,2-benzenediamine (8.5 g, 51 mmol) and pyridine (4.1 mL, 51 mmol) in acetonitrile (225 mL) at 0° C. was added via an addition funnel a solution of 4-t-butylbenzoyl chloride (10 g, 51 mmol) in acetonitrile (25 mL). After 3 h, the mixture was concentrated to a volume of about 20 mL in vacuo and then diluted with ethyl acetate (300 mL) and water (100 mL). The phases were separated and the organic phase was washed twice with 1 M citric acid, once with brine, twice with satd aq NaHCO3 and once again with brine. The organic phase was then dried with MgSO4, filtered and partially concentrated in vacuo. After standing for 48 h, the resulting precipitate was filtered, washed with ethyl acetate and dried in vacuo to give 8.2 g (48%) of off white solid. By a similar procedure, a second crop of 2.6 g (16%) was isolated from the mother liquor.

reactant | 4-methoxycarbonyl-1,2-benzenediamine | 51 mmol, 8.5 g | COC(=O)C=1C=C(C(=CC1)N)N | C8H10N2O2
reactant | pyridine | 51 mmol, 4.1 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-t-butylbenzoyl chloride | 51 mmol, 10 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | acetonitrile | 225 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N2-(4-t-Butylbenzoyl)-4-methoxycarbonyl-1,2-benzenediamine | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=C(C2)C(=O)OC)N)C=C1 | C19H22N2O3
